US05081253
2-[[(Phenyl)methyl]sulfinyl]-1H-imidazo-[4,5-c]pyridine
To a chilled (0°-5° C.) solution of 3.3 g (0.014 mol) of 2-[[(phenyl)methyl]thio]-1H-imidazo[4,5-c]pyridine in 50 mL of chloroform and 5 mL of methanol was added dropwise a solution containing 2.78 g (0.014 mol) of m- chloroperoxybenzoic acid in 50 mL of chloroform. The reaction mixture was then stirred at room temperture for 45 minutes. Approximately one half of the chloroform was removed in a rotary evaporator and the reaction mixture was then poured into 200 mL of ether. The reaction mixture was cooled in ice. The precipitate that formed was collected and amounted to 1.78 g. The product was suspended in aqueous 10% sodium bicarbonate solution, filtered and was air dried overnight. The product amounted to 1.39 g. An analytical sample (m.p. 190°-193° C.) was obtained by recrystallization from ethanol.

reactant | 2-[[(phenyl)methyl]thio]-1H-imidazo[4,5-c]pyridine | 0.014 mol, 3.3 g | C1(=CC=CC=C1)CSC=1NC2=C(C=NC=C2)N1 | C13H11N3S
reactant | m- chloroperoxybenzoic acid | 0.014 mol, 2.78 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 5 mL | CO | CH4O
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-[[(Phenyl)methyl]sulfinyl]-1H-imidazo-[4,5-c]pyridine | C1(=CC=CC=C1)CS(=O)C=1NC2=C(C=NC=C2)N1 | C13H11N3OS
